US05459151
1-cyclopentylmethyl-2-methoxybenzene
A mixture of 1-cyclopentylidenemethyl-2-methoxybenzene (408 mmol, 76.7 g) and 10% Pd on carbon (7.67 g, 10% by weight) in absolute EtOH (767 mL) was shaken at room temperature under 54 psig of hydrogen pressure for 2.5 hours. Additional H2 was added to the vessel as necessary to maintain the initial pressure. The volatiles were removed in vacuo and the residue vacuum distilled to afford the title compound as a colorless oil (72.7 g, 94%). The desired fraction comes over at 85°-95° at 2.0-2.5 mm Hg and is used as such in the subsequent transformation.

reactant | 1-cyclopentylidenemethyl-2-methoxybenzene | 408 mmol, 76.7 g | C1(CCCC1)=CC1=C(C=CC=C1)OC | C13H16O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 767 mL | CCO | C2H6O
catalyst | Pd on carbon | 7.67 g | [Pd] | Pd
product | 1-cyclopentylmethyl-2-methoxybenzene | 72.7 g, 94% | C1(CCCC1)CC1=C(C=CC=C1)OC | C13H18O
